US04195154
In German Pat. No. 1,062,253, A. Jager describes the preparation of various ether and carboxamide compounds by treating certain substituted oxazolines with certain phenols, with the exclusion of water. A mixture of phenol and 2-phenyloxazoline refluxed for 7 hours yielded PhCONHCH2CH2OPh as a product. Similarly, p-bis(oxazolinyl)benzene and phenol gave N,N'-bis(β-phenoxyethyl)terephthalamide. Finally, Jager found that a mixture of 2-phenyl-2-oxazoline and hydroquinone produced 1,4-bis(β-benzamidoethoxy)benzene.

reactant | 2-phenyl-2-oxazoline | C1(=CC=CC=C1)C=1OCCN1 | C9H9NO
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1,4-bis(β-benzamidoethoxy)benzene | C(C1=CC=CC=C1)(=O)NCCOC1=CC=C(C=C1)OCCNC(C1=CC=CC=C1)=O | C24H24N2O4
